US08563550B2
A mixture of 2-bromo-imidazo[2,1-b][1,3,4]thiadiazole (1.0 g, 4.90 mmol) and p-anisidine (19.6 mmol, 2.41 g) in trifluoroethanol (12 mL) was heated under microwave irradiation at 170° C. for 1 hour. On cooling, the mixture was diluted with dichloromethane (10 mL) and purified by column chromatography (Biotage™/Flash, silica, methanol: dichloromethane 0.2:9.8 to 1:9). The residue obtained was triturated with diethylether and few drops of methanol to give imidazo[2,1-b][1,3,4]thiadiazol-2-yl-(4-methoxyphenyl)amine as a white solid (355 mg, 29% yield).

reactant | 2-bromo-imidazo[2,1-b][1,3,4]thiadiazole | 4.90 mmol, 1.0 g | BrC1=NN2C(S1)=NC=C2 | C4H2BrN3S
reactant | p-anisidine | 19.6 mmol, 2.41 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | trifluoroethanol | 12 mL | C(C(F)(F)F)O | C2H3F3O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | imidazo[2,1-b][1,3,4]thiadiazol-2-yl-(4-methoxyphenyl)amine | 355 mg, 29% yield | S1C=2N(N=C1NC1=CC=C(C=C1)OC)C=CN2 | C11H10N4OS
